US07388061B2
(2) Synthesis of 3-ethyl-2,4-pentanediol
In N2 atmosphere free of water and oxygen, to a reactor were successively added 0.024 mol LiAlH4 and 100 ml THF, followed by adding dropwise 0.04 mol 3-ethyl-2,4-pentandione while cooling the mixture with ice-bath. The reaction was allowed to continue at room temperature for 48 hours. Aqueous solution of sodium hydroxide was added carefully to stop the reaction. The reaction mixture was filtered and the cake was washed with anhydrous ethyl ether for three times. The organic phase was combined and dried over anhydrous sodium sulfate. Removing the solvent gave 3.4 g product.

reactant | oxygen | O=O | O2
reactant | LiAlH4 | 0.024 mol | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3-ethyl-2,4-pentandione | 0.04 mol | C(C)C(C(C)=O)C(C)=O | C7H12O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | N2 | N#N | N2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-ethyl-2,4-pentanediol | 3.4 g | C(C)C(C(C)O)C(C)O | C7H16O2
